US04450230
Preparation of methylolacrylamide-acrylamide-ethylacrylate terpolymer
36 g of recrystallized N-methylolacrylamide and 20 g of recrystallized acrylamide were dissolved in 1200 ml of acetone, then added with 23 ml of freshly dissolved ethylacrylate and 0.36 g of dibenzoylperoxide and heatedto reflux for 6 hours while stirring under nitrogen atmosphere. After cooling the polymer was filtered, washed with acetone and dried as usual. Yield: 63 g. Analytical results: free CH2O: absent; total CH2O: 16.23%; [η]: 1.20 dl/g in NaNO3 1 N at 30° C.

reactant | N-methylolacrylamide | 36 g | C(O)NC(C=C)=O | C4H7NO2
reactant | acrylamide | 20 g | C(C=C)(=O)N | C3H5NO
reactant | ethylacrylate | C(C)OC(C=C)=O | C5H8O2
reactant | dibenzoylperoxide | 0.36 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | CH2O | C=O | CH2O
solvent | acetone | 1200 ml | CC(=O)C | C3H6O
product | methylolacrylamide acrylamide ethylacrylate | C(O)C(C(=O)N)=C.C(C=C)(=O)N.C(C)OC(C=C)=O | InChI=1S/C5H8O2.C4H7NO2.C3H5NO/c1-3-5(6)7-4-2;1-3(2-6)4(5)7;1-2-3(4)5/h3H,1,4H2,2H3;6H,1-2H2,(H2,5,7);2H,1H2,(H2,4,5)
